US07163954B2
To a 0° C. mixture of (6-benzo[b]thiophen-2-yl-1-bromo-naphthalen-2-yloxy)-acetonitrile (11.3 g, 32.4 mmol) in chloroform (560 mL) was added isovaleryl chloride (4.7 mL, 39 mmol) and tin (IV) chloride (5.8 mL, 49 mmol). The reaction mixture was then refluxed for 23 hours. During this time, isovaleryl chloride (12.7 mL, 103 mmol) in three portions and tin (IV) chloride (13.4 mL, 113 mmol) were added in three portions. After cooling to ambient temperature, the reaction mixture was poured into ice water. It was diluted with more chloroform, and the organic phase was washed with water and brine. It was dried with anhydrous magnesium sulfate, filtered and solvent evaporated. The residue was stirred in ether and filtered. The filtrate was concentrated and purified by flash chromatography using 25–50% methylene chloride in hexane and then by HPLC using 89% acetonitrile (0.1% trifluoroacetic acid) in water as the mobile phase. Evaporating the solvent and extracting with ethyl acetate, washing with water and brine, drying with anhydrous magnesium sulfate, filtering, concentrating and drying in vacuo at 70° C. for 50 minutes yielded {1-bromo-6-[3-(3-methyl-butyryl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetonitrile (1.1 g, 7.10%) as a yellow semi-solid. mass spectrum (−EI, [M−H]−) m/z 476/478. 1H NMR (500 MHz, DMSO-d6): δ8.19–8.25 (m, 2H), 8.16 (d, 1H, J=1.83 Hz), 8.04–8.07 (m, 1H), 7.91–7.94 (m, 1H), 7.78 (dd, 1H, J=8.78 Hz and 1.95 Hz), 7.69 (d, 1H, J=9.15 Hz), 7.42–7.49 (m, 2H), 5.43 (s, 2H), 2.28 (d, 2H, J=6.71 Hz), 1.93–2.00 (m, 1H), 0.64 ppm (d, 6H, J=6.71 Hz). Elemental Analysis for C25H20BrNO2S: Calcd: C, 62.77; H, 4.21; N, 2.93; Found: C, 62.79; H, 4.18; N, 2.82.

reactant | (6-benzo[b]thiophen-2-yl-1-bromo-naphthalen-2-yloxy)-acetonitrile | 32.4 mmol, 11.3 g | S1C2=C(C=C1C=1C=C3C=CC(=C(C3=CC1)Br)OCC#N)C=CC=C2 | C20H12BrNOS
reactant | isovaleryl chloride | 39 mmol, 4.7 mL | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | tin (IV) chloride | 49 mmol, 5.8 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | isovaleryl chloride | 103 mmol, 12.7 mL | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | tin (IV) chloride | 113 mmol, 13.4 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | chloroform | 560 mL | C(Cl)(Cl)Cl | CHCl3
product | {1-bromo-6-[3-(3-methyl-butyryl)-benzo[b]thiophen-2-yl]-naphthalen-2-yloxy}-acetonitrile | 1.1 g, 7.10% | BrC1=C(C=CC2=CC(=CC=C12)C1=C(C2=C(S1)C=CC=C2)C(CC(C)C)=O)OCC#N | C25H20BrNO2S
